US04994486
Step 4: [1R,8S,9aR] 1-Carbomethoxy-5-methoxy-8-phenyl-2,3,7,8,9,9a-hexahydrophenalene
To a solution of 0.46 g. (1.3 mmol) of [1R,8S,9aR] 1-carbomethoxy-5-methoxy-3-hydroxy-8-phenyl-7,8,9,9a-tetrahydrophenalene, from Step 3, in 50 mL of methanol, 50 mL of ethyl acetate, and 0.1 mL of concentrated hydrochloric acid is added 0.2 g of 5% palladium supported on carbon and the mixture is shaken under 4 atmospheres of hydrogen until the hydrogen uptake ceases. The catalyst is filtered through Celite filter aid and concentrated to give the title compound, which is carried on without further purification.

reactant | [1R,8S,9aR] 1-carbomethoxy-5-methoxy-3-hydroxy-8-phenyl-7,8,9,9a-tetrahydrophenalene | 1.3 mmol | C(=O)(OC)[C@H]1C=C(C2=CC(=CC=3C[C@H](C[C@H]1C23)C2=CC=CC=C2)OC)O | C22H22O4
reactant | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
reactant | hydrochloric acid | 0.1 mL | Cl | ClH
reactant | hydrogen | [H][H] | H2
solvent | methanol | 50 mL | CO | CH4O
catalyst | palladium | 0.2 g | [Pd] | Pd
product | [1R,8S,9aR] 1-Carbomethoxy-5-methoxy-8-phenyl-2,3,7,8,9,9a-hexahydrophenalene | C(=O)(OC)[C@@H]1CCC2=CC(=CC=3C[C@H](C[C@H]1C23)C2=CC=CC=C2)OC | C22H24O3
